US09326987B2
6-Bromo-3-fluoro-1-(phenylsulfonyl)-1H-indazol-4-amine
6-Bromo-3-fluoro-4-nitro-1-(phenylsulfonyl)-1H-indazole (5.9 g) was suspended in acetic acid (60 ml) and iron powder (4.12 g) was added. The suspension was heated to reflux. After 2 h the reaction mixture was diluted with ethyl acetate (100 ml) and filtered through celite. The filter cake was washed well with ethyl acetate then the filtrate basified to pH 8-9. The biphasic system was then stirred for ˜5 min. The layers were then separated, the aq washed with ethyl acetate and the combined organics washed with brine, dried (magnesium sulphate), filtered and concentrated in vacuum to yield a crude loaded onto a 330 g silica cartridge, purified on a 0-100% ethyl acetate:cyclohexane gradient and the relevant fractions combined and concentrated to yield the title compound, 2.4 g as a yellow solid.

reactant | 6-Bromo-3-fluoro-4-nitro-1-(phenylsulfonyl)-1H-indazole | 5.9 g | BrC1=CC(=C2C(=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)F)[N+](=O)[O-] | C13H7BrFN3O4S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 4.12 g | [Fe] | Fe
product | 6-Bromo-3-fluoro-1-(phenylsulfonyl)-1H-indazol-4-amine | BrC=1C=C(C=2C(=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)F)N | C13H9BrFN3O2S
